US05859007
E. 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(3-methoxy-phenyl) acetamide
52 mg of Sodium hydride (60% in oil, 1.31 mmol) is added to a solution of 2-(-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(3-methoxy-phenyl) acetamide, prepared as in Part D, (500 mg, 1.09 mmol) in DMF (10 mL ) and the resultant mixture stirred at RT for 0.5 h prior to the addition of 3-Bromomethyl-1-tert-butoxycarbonyl-1H-indazole (339 mg, 1.09 mmol) to the reaction mixture. After stirring 18 h at RT, water (50 mL) is added and the resultant mixture extracted into ethyl acetate (3×50 mL). The combined organics were washed with water (3×20 mL), brine (20 mL), dried (MgSO4) and concentrated in vacuo to afford the crude product which is purified by silica gel flash column chromatography using 5% methanol in methylene chloride as eluent to give the desired product (252 mg) as a cream foam: 1H NMR (300 MHz, CDCl3) δ8.07 (d, 1H, J=8.6), 7.91 (d, 1H, J=8.5), 7.5-6.8 (m, 15H), 5.03 (m, 1H, J=6.9), 4.39 (m, 3H), 3.94 (m, 2H), 3.84 (s, br, 4H), 3.60 (dd, 1H, J=10.1, 2.1), 1.6 (s, 9H), 1.16 (d, 6H, J=6.9).

reactant | Sodium hydride | 1.31 mmol, 52 mg | [H-].[Na+]
reactant | 2-(-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(3-methoxy-phenyl) acetamide | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC(=CC=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O4
reactant | 3-Bromomethyl-1-tert-butoxycarbonyl-1H-indazole | 1.09 mmol, 339 mg | BrCC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C13H15BrN2O2
reactant | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(3-methoxy-phenyl) acetamide | 252 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC(=CC=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C40H41N5O6
